US07285558B2
5-[2-[(5-chloro-1H-indol-3-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-N-[2-(dimethylamino)ethyl]-1-methyl-1H-pyrrole-3-carboxamide
This compound was synthesized by the reaction of 5-[2-[(5chloro-1H-indol-3-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carboxylic acid and N,N-dimethylethane-1,2-diamine using diethyl cyanophosphonate as a coupling reagent Mass: 577.31 (M+H).

reactant | 5-[2-[(5chloro-1H-indol-3-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carboxylic acid | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)C(=O)O)=O)C)=O)CC1CC1 | C25H23ClN6O4
reactant | N,N-dimethylethane-1,2-diamine | CN(CCN)C | C4H12N2
reactant | diethyl cyanophosphonate | C(#N)P(OCC)(OCC)=O | C5H10NO3P
product | 5-[2-[(5-chloro-1H-indol-3-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-N-[2-(dimethylamino)ethyl]-1-methyl-1H-pyrrole-3-carboxamide | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)C(=O)NCCN(C)C)=O)C)=O)CC1CC1 | C29H33ClN8O3
